US07807691B2
4-Methyl-5-nitro-2-pyridin-3-yl-pentan-2-ol
To a solution of 3,3-dimethyl-4-nitro-1-pyridin-3-yl-butan-1-one (1 g, 4.5 mmol) in methanol (6 mL) under nitrogen add sodium borohydride (684 mg, 18 mmol). Stir at room temperature for 2 h, evaporate the methanol, dissolve in ethyl acetate and wash with water. Dry the organic layer over anhydrous sodium sulfate and concentrate to obtain 860 mg (85%) of the title compound.

reactant | 3,3-dimethyl-4-nitro-1-pyridin-3-yl-butan-1-one | 4.5 mmol, 1 g | CC(CC(=O)C=1C=NC=CC1)(C[N+](=O)[O-])C | C11H14N2O3
reactant | sodium borohydride | 18 mmol, 684 mg | [BH4-].[Na+]
reactant | methanol | 6 mL | CO | CH4O
product | 4-Methyl-5-nitro-2-pyridin-3-yl-pentan-2-ol | 860 mg, 85% | CC(CC(C)(O)C=1C=NC=CC1)C[N+](=O)[O-] | C11H16N2O3
